US08859566B2
A mixture of 8-[1-(3-Fluoro-4-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-6-oxo-1-prop yl-6,7-dihydro-1H-purine-2-carbonitrile (65 mg, 0.145 mmol), NaOH (11 mg, 0.290 mmol) and Ethanol:water (3:1) (6 ml) were stirred at 55-60° C. for 2 hours. Reaction mixture was cooled and organic volatiles were evaporated and to the residue water (2 ml) was added and acidified by 2N HCl upto pH (1-2), solid filtered off. The crude product was purified by preparative HPLC to obtain pure 8-[1-(3-Fluoro-4-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-6-oxo-1-propyl-6,7-dihydro-1H-purine-2-carboxylic acid (21 mg, 31%) as a white solid.

reactant | 8-[1-(3-Fluoro-4-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-6-oxo-1-prop yl-6,7-dihydro-1H-purine-2-carbonitrile | 0.145 mmol, 65 mg | FC=1C=C(CN2N=CC(=C2)C2=NC=3N=C(N(C(C3N2)=O)CCC)C#N)C=CC1C(F)(F)F | C20H15F4N7O
reactant | NaOH | 0.290 mmol, 11 mg | [OH-].[Na+]
reactant | Ethanol water | 6 ml | C(C)O.O
product | 8-[1-(3-Fluoro-4-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-6-oxo-1-propyl-6,7-dihydro-1H-purine-2-carboxylic acid | 21 mg, 31% | FC=1C=C(CN2N=CC(=C2)C2=NC=3N=C(N(C(C3N2)=O)CCC)C(=O)O)C=CC1C(F)(F)F | C20H16F4N6O3
